US09029405B2
Step 1: tert-butyl 2-amino-3-methylbutanoate
To a stirred solution of DL-valine (25 g, 0.213 mol) in tert-butyl acetate (250 mL) at 00° C., was added HClO4 (64.2 g, 0.320 mol) portionwise. The reaction mixture was stirred for 36 h at RT. It was diluted with water and extracted in ethyl acetate (500 mL). The organic layer was washed with a 10% sodium bicarbonate solution (2×150 mL), dried over Na2SO4 and concentrated, affording of the title compound as brown liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.31 (brs, 2H), 3.62 (d, J=4.4 Hz, 1H), 1.98 (d, J=1.7 Hz, 1H), 1.44 (s, 9H), 0.95 (m, 6H).

reactant | DL-valine | 0.213 mol, 25 g | NC(C(C)C)C(=O)O | C5H11NO2
solvent | tert-butyl acetate | 250 mL | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | water | O | H2O
product | tert-butyl 2-amino-3-methylbutanoate | NC(C(=O)OC(C)(C)C)C(C)C | C9H19NO2
